US09062048B2
Step B: N-(1-(4-oxocyclohexyl)propyl)methanesulfonamide
A solution of N-(1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)methanesulfonamide (as prepared in the previous step, 38 mg, 0.14 mmol, 1.00 equiv) in CH3CN (5 mL) and HCl (2M, 1 mL) was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 10 mL of aq. sodium bicarbonate (1M). The resulting solution was extracted with 2×20 mL of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to give the title compound as a yellow oil.

reactant | N-(1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)methanesulfonamide | O1CCOC12CCC(CC2)C(CC)NS(=O)(=O)C | C12H23NO4S
reactant | HCl | 2M, 1 mL | Cl | ClH
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | N-(1-(4-oxocyclohexyl)propyl)methanesulfonamide | O=C1CCC(CC1)C(CC)NS(=O)(=O)C | C10H19NO3S
